US05883106
E. 1-[3-[4-(2-Methylimidazol-1-yl)benzyloxy]phenyl]cyclopentane-1-carboxamide
1-(3-Hydroxyphenyl)cyclopentane-1-carboxamide was reacted with 4-(2-methyl-imidazol-1-yl)benzyl chloride hydrochloride according to the procedure described in Example 2H to give the titled compound.

reactant | 1-(3-Hydroxyphenyl)cyclopentane-1-carboxamide | OC=1C=C(C=CC1)C1(CCCC1)C(=O)N | C12H15NO2
reactant | 4-(2-methyl-imidazol-1-yl)benzyl chloride hydrochloride | Cl.CC=1N(C=CN1)C1=CC=C(CCl)C=C1
product | 1-[3-[4-(2-Methylimidazol-1-yl)benzyloxy]phenyl]cyclopentane-1-carboxamide | CC=1N(C=CN1)C1=CC=C(COC=2C=C(C=CC2)C2(CCCC2)C(=O)N)C=C1 | C23H25N3O2
